US07737166B2
7-Bromo-2-tert-butyl-6-iodo-5-methyl-1,3-benzoxazole-4-carbonitrile (I-8)
Toluene (25 ml), p-toluenesulfonic acid monohydrate (10.9 mg, 57.2 μmol) were added to N-(3-bromo-6-cyano-2-hydroxy-4-iodo-5-methylphenyl)-2,2-dimethylpropionamide (I-7) (250 mg, 572 μmol), followed by refluxing with a Dean-Stark condenser for 3 hours. After cooling, saturated sodium bicarbonate water (30 ml) was added to the reaction liquid, the product was extracted with ethyl acetate (50 ml×2). The organic layer was washed with saturated brine (50 ml), dried over anhydrous magnesium sulfate, concentrated under reduced pressure, the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=6:1) to obtain the entitled compound (225 mg, 94%) as a pale yellow solid.

reactant | p-toluenesulfonic acid monohydrate | 57.2 μmol, 10.9 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | N-(3-bromo-6-cyano-2-hydroxy-4-iodo-5-methylphenyl)-2,2-dimethylpropionamide | 572 μmol, 250 mg | BrC=1C(=C(C(=C(C1I)C)C#N)NC(C(C)(C)C)=O)O | C13H14BrIN2O2
reactant | sodium bicarbonate water | 30 ml | O.C([O-])(O)=O.[Na+]
solvent | Toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 7-Bromo-2-tert-butyl-6-iodo-5-methyl-1,3-benzoxazole-4-carbonitrile | 225 mg, 94% | BrC=1C(=C(C(=C2N=C(OC21)C(C)(C)C)C#N)C)I | C13H12BrIN2O
